US04772751
The reaction was conducted as described in Example 1 with tert-butyllithium (30.9 mL, 51 mmol) which was added to triisopropoxyborane (9.59 g, 51 mmol) in 51 mL ethyl ether cooled to -100° C. instead of -78° C. Solvents were removed at 0° C. and 15 mm Hg. The oil bath was maintained at 50° C. to furnish tert-butyldiisopropoxyborane: 8.44 g (45.3 mmol, 89%), bp 136-138 (754 mm Hg); proton NMR (neat) δ4.50 (septet, J=18 Hz, 2H), 1.12 (d, J=18 Hz, 12H), 0.95 (s, 9H); boron NMR (neat) δ+29.5 ppm (s).

reactant | tert-butyllithium | 51 mmol, 30.9 mL | C(C)(C)(C)[Li]
reactant | triisopropoxyborane | 51 mmol, 9.59 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | ethyl ether | 51 mL | C(C)OCC | C4H10O
product | tert-butyldiisopropoxyborane | C(C)(C)(C)B(OC(C)C)OC(C)C | C10H23BO2
